US07977351B2
5-Fluoro-3-[2-(3-hydroxy-piperidin-1-ylmethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (75 mg, 0.49 mmol) in THF (4 mL) is treated with a solution of lithium bis(trimethylsilyl)amide (0.8 mL of a 1 M solution in THF, 0.8 mmol) dropwise. The resulting solution is stirred at room temperature for 10 min. A solution of 2-(4-hydroxy-piperidin-2-ylmethyl)-7H-furo[3,4-b]pyridin-5-one (70 mg, 0.28 mmol) in THF (2 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 6 h. The reaction mixture is treated with additional lithium bis(trimethylsilyl)amide (0.3 mL of a 1 M solution in THF, 0.3 mmol) dropwise and the reaction mixture is stirred at room temperature overnight. The reaction mixture is poured into a cold aqueous 10% HCl solution (7 mL). The resulting mixture is heated to 50° C. for 1 h and then poured into 100 mL ice water. Solid NaHCO3 is carefully added to adjust the pH to 8. The aqueous layer is extracted with EtOAc (2×). The combined organic extracts are dried with Na2SO4, filtered and concentrated. The residue is purified by chromatography (silica gel, MeOH-Chloroform). The product containing fractions are concentrated to give the title compound as a yellow solid (11 mg, 10%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.49 mmol, 75 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(4-hydroxy-piperidin-2-ylmethyl)-7H-furo[3,4-b]pyridin-5-one | 0.28 mmol, 70 mg | OC1CC(NCC1)CC1=CC=C2C(=N1)COC2=O | C13H16N2O3
reactant | HCl | 7 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-[2-(3-hydroxy-piperidin-1-ylmethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one | 11 mg, 10% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)CN2CC(CCC2)O | C21H20FN3O3
